US08283354B2
To a solution of 2-(4-((R)-3-aminopyrrolidin-1-yl)-7-methylquinazolin-2-yl)-3-fluorophenol (100 mg, 0.295 mmol) in 10 mL DMF, at −2° C., was added cyclopropanecarboxylic acid (23 μL, 0.30 mmol), followed by the addition of triethylamine (82 μL, 0.59 mmol) and a solution of HATU (124 mg, 0.32 mmol) in 4 mL DMF. The mixture was warmed to room temperature and stirred for 1 h. Cold water was added to the reaction mixture which resulted in the formation of a precipitate which was collected by filtration and dissolved in CH2Cl2. The solution was then dried over MgSO4, filtered, and concentrated to afford N-((R)-1-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-yl)cyclopropanecarboxamide (80 mg, 66%) LC/MS: m/z 407.5 (M+H)+ at 2.08 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 2-(4-((R)-3-aminopyrrolidin-1-yl)-7-methylquinazolin-2-yl)-3-fluorophenol | 0.295 mmol, 100 mg | N[C@H]1CN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1F)O | C19H19FN4O
reactant | cyclopropanecarboxylic acid | 0.30 mmol, 23 μL | C1(CC1)C(=O)O | C4H6O2
reactant | triethylamine | 0.59 mmol, 82 μL | C(C)N(CC)CC | C6H15N
reactant | HATU | 0.32 mmol, 124 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-((R)-1-(2-(2-fluoro-6-hydroxyphenyl)-7-methylquinazolin-4-yl)pyrrolidin-3-yl)cyclopropanecarboxamide | 80 mg, 66% | FC1=C(C(=CC=C1)O)C1=NC2=CC(=CC=C2C(=N1)N1C[C@@H](CC1)NC(=O)C1CC1)C | C23H23FN4O2
